US05801170
2-Cyanomethoxy-4-nitroanisole
A stirred solution of 2-methoxy-5-nitrophenol (2 g, 0.012 mole) and potassium carbonate (1.64 g, 0.012 mole) in acetone (10 ml) was treated with bromoacetonitrile (0.19 ml, 0.013 mole) in acetone (10 ml) and stirred for 3 hours at room temperature. The mixture was concentrated in vacuo and the residue treated with 10% NaOH solution, then extracted with ethyl acetate. The organic extract was dried (Na2SO4) and evaporated in vacuo to give the title compound (2.35 g, 96%).

reactant | 2-methoxy-5-nitrophenol | 0.012 mole, 2 g | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | potassium carbonate | 0.012 mole, 1.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 0.013 mole, 0.19 ml | BrCC#N | C2H2BrN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-Cyanomethoxy-4-nitroanisole | 2.35 g, 96% | C(#N)COC1=C(C=CC(=C1)[N+](=O)[O-])OC | C9H8N2O4
